US08314087B2
5-Bromo-1-(1-hydroxypropan-2-yl)pyridin-2(1H)-one.
To a solution of 2-(5-bromo-2-oxopyridin-1(2H)-yl)propanoic acid (3.36 g, 13.7 mmol) in 50 mL of THF was added borane-dimethyl sulfide (3.89 ml, 41.0 mmol) via a syringe. The reaction was stirred at rt for 16 hours and was quenched with 10 mL of 1N HCl. The mixture was extracted with 70 mL of EtOAc twice. The combined organic phases were washed with brine and dried over Na2SO4. The solution was concentrated in vacuo to give a light yellow oil (2.50 g, 78.9% yield) which was used in the next step without further purification. MS (ESI pos. ion) m/z (MH+): 231.9. Calc'd Exact Mass for C8H10BrNO2: 230.99.

reactant | 2-(5-bromo-2-oxopyridin-1(2H)-yl)propanoic acid | 13.7 mmol, 3.36 g | BrC=1C=CC(N(C1)C(C(=O)O)C)=O | C8H8BrNO3
reactant | borane-dimethyl sulfide | 41.0 mmol, 3.89 ml | CSC.B
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-(1-hydroxypropan-2-yl)pyridin-2(1H)-one | 2.50 g, 78.9% yield | BrC=1C=CC(N(C1)C(CO)C)=O | C8H10BrNO2
